US05650511
Methyl 3-(N,N'-bis-carbomethoxyguanidinyl)-4-(3-thienylmethyl)-1H-pyrrole-2-carboxylate, obtained from Example 23 (3.94 g, 0.01 mol), sodium methoxide (1.62 g, 0.03 mol) and methanol (100 mL) were stirred together and boiled under reflux for six hours. The solvent was evaporated in vacuo and the residue was treated with water (200 mL) containing acetic acid (10 mL). The solid was collected by filtration and crystallized from ethanol to give 2.1 g (85%) of 2-amino-7-(3-thienylmethyl)-4-oxo-3H,5H-pyrrolo[3,2-d]pyrimidine as pale-yellow needles, mp 222°-224° C. with gas evolution, followed by resolidification and remelting at 268°-270° C. (lit.1 271°-272° C.).

reactant | Methyl 3-(N,N'-bis-carbomethoxyguanidinyl)-4-(3-thienylmethyl)-1H-pyrrole-2-carboxylate | C(=O)(OC)N(C(=N)NC(=O)OC)C1=C(NC=C1CC1=CSC=C1)C(=O)OC | C16H18N4O6S
reactant | sodium methoxide | 0.03 mol, 1.62 g | C[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2-amino-7-(3-thienylmethyl)-4-oxo-3H,5H-pyrrolo[3,2-d]pyrimidine | 2.1 g, 85% | NC=1NC(C2=C(N1)C(=CN2)CC2=CSC=C2)=O | C11H10N4OS
